US08633189B2
1-(1-Cyclopentenyl)-4-nitro-benzene (225 mg, 1.19 mmol) in methanol (10 mL) and dichloromethane (2.5 mL) was treated with 10% Pd/C (70 mg) and stirred under H2 atmosphere for 1 h at room temperature. The reaction was filtered and concentrated in vacuo to provide 4-cyclopentylaniline (180 mg, 94% yield). 1H NMR (400.0 MHz, MeOD) δ 7.01 (d, J=8.2 Hz, 2H), 6.73-6.70 (m, 2H), 2.88 (dd, J=2.3, 17.3 Hz, 1H), 2.00-1.95 (m, 2H), 1.80-1.75 (m, 2H), 1.70-1.64 (m, 2H), 1.56-1.49 (m, 2H).

reactant | 1-(1-Cyclopentenyl)-4-nitro-benzene | 1.19 mmol, 225 mg | C1(=CCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H11NO2
solvent | methanol | 10 mL | CO | CH4O
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 4-cyclopentylaniline | 180 mg, 94% yield | C1(CCCC1)C1=CC=C(N)C=C1 | C11H15N
